US06599902B2
Synthesis of 3-[1-[4-((S)-3-Cyclopropylaminomethyl-piperidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (200 mg, 0.4 mmol), HOBt (54 mg, 1 eq.), EDAC (77 mg, 1 eq.), TEA (0.17 mL) and cyclopropyl-(R)-1-piperidin-3-ylmethyl-amine (110 mg, 0.48 mmol) in DMF (3 mL) was stirred at rt for overnight. The reaction was concentrated and purified on a silica gel column to give 45 mg of the titled compound.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.4 mmol, 200 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | HOBt | 54 mg, 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 77 mg, 1 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | cyclopropyl-(R)-1-piperidin-3-ylmethyl-amine | 0.48 mmol, 110 mg | C1(CC1)NC[C@H]1CNCCC1 | C9H18N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[1-[4-((S)-3-Cyclopropylaminomethyl-piperidine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 45 mg | C1(CC1)NC[C@H]1CN(CCC1)C(=O)C=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C32H34Cl2N4O4S
